US03941803
In the manner given in Example 25, 2',5-dichloro-2-[4-methyl-2-(phthalimidomethyl)imidazol-1-yl]benzophenone in ethanol is heated with hydrazine to give 8-chloro-6-(o-chlorophenyl)-2-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 2',5-dichloro-2-[4-methyl-2-(phthalimidomethyl)imidazol-1-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NC(=C1)C)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C26H17Cl2N3O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-6-(o-chlorophenyl)-2-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=C(N3)C)C3=C(C=CC=C3)Cl)C1 | C18H13Cl2N3
